US04608374
11-[1-(3,4-Dichlorobenzoyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
To a cold solution of 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (10.4 g; 0.04 mole in 150 ml CH2Cl2) and 6.7 ml Et3N (0.048 mole) was slowly added a solution of 3,4-dichlorobenzoyl chloride (10.05 g; 0.048 mole in 60 ml CH2Cl2). This was stirred at room temperature for 15 minutes.

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.04 mole, 150 ml, 10.4 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | Et3N | 0.048 mole, 6.7 ml | CCN(CC)CC | C6H15N
reactant | 3,4-dichlorobenzoyl chloride | 0.048 mole, 60 ml, 10.05 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
product | 11-[1-(3,4-Dichlorobenzoyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | ClC=1C=C(C(=O)N2CCC(CC2)C2OC3=C(CN4C2=CC=C4)C=CC=C3)C=CC1Cl | C24H22Cl2N2O2
